US04059434
a. Preparation of 3-amino-2-(4-chlorophenyl)-4,5,6,7-tetrahydro-2H-indazole
A mixture of 3.6 parts of 4-chlorophenylhydrazine and 2.0 parts of triethylamine in 20.0 parts of toluene was stirred at room temperature for fifteen minutes. To the mixture was added 2.5 parts of 2-cyanocyclohexanone, prepared from commercial 2-chlorocyclohexanone and potassium cyanide [von R. E. Meyer, Helv. Chim. Acta., 16, 1291 (1933)], and a few drops of acetic acid. After refluxing for two hours, followed by stirring at room temperature overnight, the reaction mixture was evaporated to remove toluene and was treated with water, extracted with diethyl ether, dried over anhydrous magnesium sulfate and concentrated. Recrystallization from ethanol/water gave 2.6 parts of the compound, m.p. 140°-142°.

reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | 2-cyanocyclohexanone | C(#N)C1C(CCCC1)=O | C7H9NO
reactant | 2-chlorocyclohexanone | ClC1C(CCCC1)=O | C6H9ClO
reactant | potassium cyanide | [C-]#N.[K+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-amino-2-(4-chlorophenyl)-4,5,6,7-tetrahydro-2H-indazole | NC=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl | C13H14ClN3
